US08557830B2
A mixture of 6-bromo-4-chloro-7-methyl-8-nitroquinazoline (211 mg, 0.70 mmol) and 4-aminobenzonitrile (208 mg, 1.76 mmol) in toluene (25 mL) was refluxed overnight. i-PrOH (25 mL) was added and the mixture was refluxed for 5 h. After cooling to rt the precipitate was filtered and washed with i-PrOH to give 4-(6-bromo-7-methyl-8-nitroquinazolin-4-ylamino)benzonitrile (195 mg, 72%). MS (ESI, pos. ion) m/z: 384 [M+H]+

reactant | 6-bromo-4-chloro-7-methyl-8-nitroquinazoline | 0.70 mmol, 211 mg | BrC=1C=C2C(=NC=NC2=C(C1C)[N+](=O)[O-])Cl | C9H5BrClN3O2
reactant | 4-aminobenzonitrile | 1.76 mmol, 208 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | i-PrOH | 25 mL | CC(C)O | C3H8O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(6-bromo-7-methyl-8-nitroquinazolin-4-ylamino)benzonitrile | 195 mg, 72% | BrC=1C=C2C(=NC=NC2=C(C1C)[N+](=O)[O-])NC1=CC=C(C#N)C=C1 | C16H10BrN5O2
